US08022209B2
3′-[4-(4-Methyl-piperazin-1-yl)-pyridin-2-yl]-biphenyl-4-carboxylic acid
To a solution of 3′-[4-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-biphenyl-4-carboxylic acid ethyl ester (182 mg, 0.4 mmol) in MeOH/water (3:1, 4 mL) was added LiOH (48 mg, 2 mmol). The resulting mixture was stirred at room temperature overnight. The resulting mixture was concentrated and the resulting aqueous solution was adjusted to pH 7 by the addition of 1 N HCl. The resulting mixture was concentrated and the resulting residue was dissolved in MeOH, dried, and concentrated to yield the title compound as a white solid.

reactant | 3′-[4-(4-methyl-piperazin-1-yl)-pyridin-2-yl]-biphenyl-4-carboxylic acid ethyl ester | 0.4 mmol, 182 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C1=NC=CC(=C1)N1CCN(CC1)C | C25H27N3O2
reactant | LiOH | 2 mmol, 48 mg | [Li+].[OH-]
solvent | MeOH water | 4 mL | CO.O
product | 3′-[4-(4-Methyl-piperazin-1-yl)-pyridin-2-yl]-biphenyl-4-carboxylic acid | CN1CCN(CC1)C1=CC(=NC=C1)C=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C23H23N3O2
